US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and p-(trifluoromethoxy)-phenyl isocyanate, there is obtained ethyl N-{[p-(trifluoromethoxy)-phenyl]carbamoyl}-5,7-dihydro-6H-dibenz[c,e]azepine-6 -carboximidate, m.p. 129°-130° C.

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-(trifluoromethoxy)-phenyl isocyanate | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
product | ethyl N-{[p-(trifluoromethoxy)-phenyl]carbamoyl}-5,7-dihydro-6H-dibenz[c,e]azepine-6 -carboximidate | FC(OC1=CC=C(C=C1)NC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2)(F)F | C25H22F3N3O3
